US07091220B2
{(2-Chloro-6-fluoro-phenyl)-[2-(4-chloro-phenyl)-1H-indol-3-yl]-methyl}-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-(4-chlorophenyl)-indole and (2-chloro-6-fluoro-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 2-chloro-6-fluoro-benzaldehyde and dimethylamine.

reactant | 2-(4-chlorophenyl)-indole | ClC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C14H10ClN
reactant | (2-chloro-6-fluoro-benzylidene)-dimethyl-ammonium chloride | [Cl-].ClC1=C(C=[N+](C)C)C(=CC=C1)F
reactant | 2-chloro-6-fluoro-benzaldehyde | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | dimethylamine | CNC | C2H7N
product | {(2-Chloro-6-fluoro-phenyl)-[2-(4-chloro-phenyl)-1H-indol-3-yl]-methyl}-dimethyl-amine | ClC1=C(C(=CC=C1)F)C(C1=C(NC2=CC=CC=C12)C1=CC=C(C=C1)Cl)N(C)C | C23H19Cl2FN2
